US04950674
3-Methoxy-4-(phenylmethyloxy)benzaldehyde
A mixture of 4-hydroxy-3-methoxybenzaldehyde (100.0 g, 0.657 mole), benzyl bromide (112.4 g, 0.657 mole), and potassium carbonate (90.8 g, 0.657 mole) was heated overnight at reflux in 600 ml of dry acetonitrile (dried over 4A molecular sieves). The reaction mixture was stripped to dryness on a rotary evaporator. A white solid was obtained which was recrystallized form ethanol and dried in vacuo overnight at 80° C., to give 147.45 g (92.6% yield) of white crystalline product, mp 58°-63° C.

reactant | 4-hydroxy-3-methoxybenzaldehyde | 0.657 mole, 100.0 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | benzyl bromide | 0.657 mole, 112.4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.657 mole, 90.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
product | 3-Methoxy-4-(phenylmethyloxy)benzaldehyde | 147.45 g, 92.6% yield | COC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C15H14O3
